US09302996B2
In N,N-dimethylformamide (13 mL) was dissolved 5-bromo-3-chloro-2-[5-(trifluoromethyl)-1H-imidazol-2-yl]pyridine (1.27 g), 60% sodium hydride (187 mg) was added to the solution under ice-cooling, and after raising the mixture to room temperature, the mixture was stirred for 1 hour. The reaction mixture was ice-cooled, 2-(trimethylsilyl)ethoxymethyl chloride (1.03 mL) was added to the mixture, and after raising the mixture to room temperature, the mixture was stirred for 1 hour. Water was added to the reaction mixture, the mixture was extracted with ethyl acetate, and the organic layer was washed with water and a saturated brine, and dried over anhydrous magnesium sulfate. After concentrating the mixture under reduced pressure, the obtained residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=100:0 to 95:5) to obtain 5-bromo-3-chloro-2-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]pyridine (1.56 g).

reactant | 5-bromo-3-chloro-2-[5-(trifluoromethyl)-1H-imidazol-2-yl]pyridine | 1.27 g | BrC=1C=C(C(=NC1)C=1NC(=CN1)C(F)(F)F)Cl | C9H4BrClF3N3
reactant | sodium hydride | 187 mg | [H-].[Na+]
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 1.03 mL | C[Si](CCOCCl)(C)C | C6H15ClOSi
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 13 mL | CN(C=O)C | C3H7NO
product | 5-bromo-3-chloro-2-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]pyridine | 1.56 g | BrC=1C=C(C(=NC1)C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C)Cl | C15H18BrClF3N3OSi
